US05049667
a) Preparation of N-(2-hydroxyethyl)-N-(2-hexyl-2-hydroxyethyl)amine
50 g (0.39 mmole) of 1,2-epoxy-octane are added dropwise to 250 cm3 (4 moles) of ethanolamine at 100° C. Heating is maintained for 1 h after the addition is complete, then the excess ethanolamine is distilled in a vacuum. The residue is recrystallised from 600 cm3 of hexane, after filtration and drying. The solid residue obtained weighs 69 g (melting point 45° C., yield=93% Rf=0.62 silica/butanol/H2O/acetic acid/50/25/11).

reactant | 1,2-epoxy-octane | 0.39 mmole, 50 g | O1CC1CCCCCC | C8H16O
reactant | ethanolamine | 4 moles, 250 cm3 | C(O)CN | C2H7NO
product | N-(2-hydroxyethyl)-N-(2-hexyl-2-hydroxyethyl)amine | yield=93% | OCCNCC(O)CCCCCC | C10H23NO2
